US07407955B2
A solution of 1.00 g of methyl cinnolin-4-carboxylate in 15 ml diethyl ether is added dropwise at 0° C. to a suspension of 222 mg of lithium aluminium hydride in 5 ml of diethyl ether. After 1.5 hours water is carefully added dropwise to the reaction mixture, this is stirred with methylene chloride and suction filtered through a glass fibre filter. The aqueous phase is extracted with methylene chloride and the combined organic phases are dried over magnesium sulphate and evaporated down. According to 1H-NMR a mixture of cinnoline and 1,4-dihydro-cinnoline compound is obtained as a yellow oil which is reacted further without any more purification.

reactant | methyl cinnolin-4-carboxylate | 1.00 g | N1=NC=C(C2=CC=CC=C12)C(=O)OC | C10H8N2O2
reactant | lithium aluminium hydride | 222 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 1,4-dihydro-cinnoline | N1N=CCC2=CC=CC=C12 | C8H8N2
